US09284331B2
Step 2: 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-fluorocyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 113. A solution of 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxycyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (120 mg, 0.32 mmol) in DCM was cooled to 0° C. under N2 and treated with DAST (0.42 mL, 3.19 mmol) dropwise. The mixture was stirred for 20 min at 0° C., and the allowed to warm to RT. The reaction mixture was then slowly poured onto a cooled saturated aq. solution of NaHCO3 and extracted with DCM. The combined org layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product obtained was purified by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 9:1) and SFC (column: 2-Ethylpyridine 5 μm, 250×30 mm, 60 A, Princeton; eluent: isocratic 6% MeOH/CO2 for 11 min; flow 100 mL/min; UV detection at 220 nm) to afford the title compound (42 mg) as a beige solid. UPLC-MS: MS 379.2 (M+H+); UPLC rt 0.95 min. 1H NMR (400 MHz, DMSO-d6): δ ppm 1.10-1.19 (m, 3 H); 1.46-1.64 (m, 1 H); 1.88-2.09 (m, 1 H); 2.47 (m, 2 H); 2.51-2.79 (m, 4 H); 2.95 (t, J=5.28 Hz, 2 H); 3.73 (t, J=6.06 Hz, 2 H); 4.22 (br. s., 2 H); 7.07 (s, 1 H); 7.33-7.48 (m, 2 H); 7.58-7.67 (m, 1 H); 7.95 (d, J=8.21 Hz, 1 H); 8.13 (s, 1 H).

reactant | 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxycyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.32 mmol, 120 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C2(CCC2)O)=C1)=O | C22H24N4O2
reactant | DAST | 3.19 mmol, 0.42 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-fluorocyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 42 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C2(CCC2)F)=C1)=O | C22H23FN4O
